US07405232B2
b) methyl 3-hydrazinocarbonyl-benzoate
14.6 g (44.5 mmol) methyl 3-[N′-benzyloxycarbonyl-hydrazinocarbonyl)-benzoate are dissolved in 75 mL methanol and hydrogenated in the presence of palladium on charcoal (10%) at ambient temperature and 3 bar hydrogen pressure. The catalyst is filtered off and the filtrate is freed from solvent. White solid.

reactant | methyl 3-[N′-benzyloxycarbonyl-hydrazinocarbonyl)-benzoate | 44.5 mmol, 14.6 g | C(C1=CC=CC=C1)OC(=O)NNC(=O)C=1C=C(C(=O)OC)C=CC1 | C17H16N2O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 75 mL | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | methyl 3-hydrazinocarbonyl-benzoate | N(N)C(=O)C=1C=C(C(=O)OC)C=CC1 | C9H10N2O3
